US05580893
Phenyl N-(2-nitroxyethyl)carbamate (Exemplified compound No. 1)
0.4 ml of triethylamine was added to a suspension of 0.5 g of diphenyl carbonate and 0.4 g of 2-nitroxyethylamine nitrate in 10 ml of acetonitrile. The mixture was stirred at room temperature for 2 hours and was then allowed to stand overnight at room temperature. The solvent was distilled off under reduced pressure, water was added to the residue, and it was extracted with ethyl acetate 3 times. The extracts were dried over magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography through silica gel (eluent; hexane: ethyl acetate=5:1) to give 0.22 g of the title compound as colorless powdery crystals.

reactant | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | diphenyl carbonate | 0.5 g | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
reactant | 2-nitroxyethylamine nitrate | 0.4 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | Phenyl N-(2-nitroxyethyl)carbamate | 0.22 g | O([N+](=O)[O-])CCNC(OC1=CC=CC=C1)=O | C9H10N2O5
